US04424351
3.8 g (0.015 moles) of 3-phenyl-1,4-dihydropyrido[3,4-e]-as-triazine hydrochloride are reacted with p-chlorobenzoyl chloride as described in Example 2 to obtain 1-(p-chlorobenzoyl)-3-phenyl-1,4-dihydropyrido[3,4-e]-as-triazine hydrochloride with a yield of 68%; m.p.: 215° C.

reactant | 3-phenyl-1,4-dihydropyrido[3,4-e]-as-triazine hydrochloride | 0.015 moles, 3.8 g | Cl.C1(=CC=CC=C1)C1=NNC2=C(N1)C=NC=C2
reactant | p-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | 1-(p-chlorobenzoyl)-3-phenyl-1,4-dihydropyrido[3,4-e]-as-triazine hydrochloride | yield of 68% | Cl.ClC1=CC=C(C(=O)N2N=C(NC3=C2C=CN=C3)C3=CC=CC=C3)C=C1 | InChI=1S/C19H13ClN4O.ClH/c20-15-8-6-14(7-9-15)19(25)24-17-10-11-21-12-16(17)22-18(23-24)13-4-2-1-3-5-13;/h1-12H,(H,22,23);1H
